US06204294B1
a) 1-Allyloxy-5-cyano-2-nitrobenzene
A mixture of 5-cyano-2-nitro-phenol (3.0 g, 18.9 mmol), allyl bromide (1.82 ml, 21.0 mmol) and cesium carbonate (7.39 g, 22.7 mmol) in DMF (20 ml) was stirred at rt for 18 hrs under Ar. The reaction mixture was partitioned between t-butyl-methylether and water. The layers were separated and the aqueous portion was further extracted (×3). The combined organic extracts were washed twice with water, then brine and dried over MgSO4 and filtered. Removal of solvent at reduced pressure afforded the title compound (3.89 g, 100%). 1H NMR(400 MHz, CDCl3) δ 7.87 (d, J=8.5 Hz, 1H), 7.35 (dd, J=8.4 Hz J=1.2 Hz 1H), 7.35 (d, J=1.5 Hz, 1H), 6.02 (m, 1H), 5.52 (d, 1H), 5.43 (d, 1H), 4.73 (dd, J=3.6 Hz J=1.2 Hz 2H);

reactant | 5-cyano-2-nitro-phenol | 18.9 mmol, 3.0 g | C(#N)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H4N2O3
reactant | allyl bromide | 21.0 mmol, 1.82 ml | C(C=C)Br | C3H5Br
reactant | cesium carbonate | 22.7 mmol, 7.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Allyloxy-5-cyano-2-nitrobenzene | 3.89 g, 100% | C(C=C)OC1=C(C=CC(=C1)C#N)[N+](=O)[O-] | C10H8N2O3
